US08895313B2
6-Methyl-2-(4-{(E)-2-[4-nitro-2-(2-tert-butyldimethylsiloxyethoxy)phenyl]ethenyl}phenyl)imidazo[1,2-a]pyridine
Prepared as described in the Alkene Formation section using sodium hydride (40 mg, 60% dispersion in mineral oil, 1.00 mmol), diethyl [4-(6-methylimidazo[1,2-a]pyridin-2-yl)benzyl]phosphonate (0.300 g, 0.837 mmol) and 2-([2-tert-butyldimethylsiloxy]ethoxy)-4-nitrobenzaldehyde (0.272 g, 0.837 mmol) in dry THF (30 ml) to give the title compound (0.285 g, 64%) as an orange solid after work-up and flash chromatography (2:1 EtOAc/Hexane).

reactant | sodium hydride | 1.00 mmol, 40 mg | [H-].[Na+]
reactant | diethyl [4-(6-methylimidazo[1,2-a]pyridin-2-yl)benzyl]phosphonate | 0.837 mmol, 0.300 g | CC=1C=CC=2N(C1)C=C(N2)C2=CC=C(CP(OCC)(OCC)=O)C=C2 | C19H23N2O3P
reactant | 2-([2-tert-butyldimethylsiloxy]ethoxy)-4-nitrobenzaldehyde | 0.837 mmol, 0.272 g | O([Si](C)(C)C(C)(C)C)CCOC1=C(C=O)C=CC(=C1)[N+](=O)[O-] | C15H23NO5Si
reactant | EtOAc Hexane | CCOC(=O)C.CCCCCC
solvent | THF | 30 ml | C1CCOC1 | C4H8O
product | 6-Methyl-2-(4-{(E)-2-[4-nitro-2-(2-tert-butyldimethylsiloxyethoxy)phenyl]ethenyl}phenyl)imidazo[1,2-a]pyridine | 0.285 g, 64% | CC=1C=CC=2N(C1)C=C(N2)C2=CC=C(C=C2)\C=C\C2=C(C=C(C=C2)[N+](=O)[O-])OCCO[Si](C)(C)C(C)(C)C | C30H35N3O4Si
